### PR TITLE
prove perpendicular from inner product zero

### PR DESCRIPTION
**Pull request by tonyxty**

### CODE REVIEW

File: EuclideanGeometry/Foundation/Axiom/Linear/Perpendicular.lean [hunk 1]
```diff
@@ -101,4 +101,31 @@ theorem dist_pt_line_shortest (A B : P) {l : Line P} (h : B LiesOn l) : dist A B
 
 end Perpendicular_constructions
 
+section Perpendicular_inner_product
+
+theorem perp_of_inner_product_eq_zero (v w : VecND) (h : inner v.1 w.1 = (0 : ℝ)) : v ⟂ w := by
```
Comment (jjdishere) [inline EuclideanGeometry/Foundation/Axiom/Linear/Perpendicular.lean:106]: This theorem can be enhanced to an iff version.

File: EuclideanGeometry/Foundation/Axiom/Linear/Perpendicular.lean [hunk 2]
```diff
@@ -101,4 +101,31 @@ theorem dist_pt_line_shortest (A B : P) {l : Line P} (h : B LiesOn l) : dist A B
...
+  unfold perpendicular Proj.perp
+  rw [Proj.vadd_coe_left]
+  unfold Dir.rotate
+  erw [Proj.map_vecND_toProj]
+  simp
```
Comment (jjdishere) [inline EuclideanGeometry/Foundation/Axiom/Linear/Perpendicular.lean:111]: Please do not leave plain `simp` in a proof. please always turn them into `simp only`

**Review by jjdishere — CHANGES_REQUESTED** [review]

File: EuclideanGeometry/Foundation/Axiom/Linear/Perpendicular.lean (hunk 1 above)
Comment (tonyxty) [reply EuclideanGeometry/Foundation/Axiom/Linear/Perpendicular.lean:106]: I will prove the reverse implication in a separate commit.

**Review by jjdishere — APPROVED** [review]
